US04301173
The tri-n-dodecyltin chloride was treated with a 20% aqueous methanol solution of sodium hydroxide to afford tri-n-dodecyltin hydroxide having a melting point of 58° to 61° C.

reactant | tri-n-dodecyltin chloride | C(CCCCCCCCCCC)[Sn](CCCCCCCCCCCC)(CCCCCCCCCCCC)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | tri-n-dodecyltin hydroxide | [OH-].C(CCCCCCCCCCC)[Sn+](CCCCCCCCCCCC)CCCCCCCCCCCC | InChI=1S/3C12H25.H2O.Sn/c3*1-3-5-7-9-11-12-10-8-6-4-2;;/h3*1,3-12H2,2H3;1H2;/q;;;;+1/p-1
